US04377580
A mixture of methyl 4-oxo-10-cyclohexanecarboxamido-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (4.7 g) and anhydrous lithium iodide (11.75 g) in dry pyridine (47 ml) was stirred at 100° C. for 1 hour and 20 minutes and cooled to ambient temperature. The resulting solid was collected by filtration and washed with ethanol. The solid was suspended in water (100 ml). The suspension was adjusted to pH 1-2 with conc. hydrochloric acid to give yellow crystals which were separated by filtration, washed with water and dried. The crude crystals were washed with a mixture of chloroform and methanol and dried. There was obtained 4-oxo-10-cyclohexanecarboxamido-4H-pyrimido[1,2-C]quinazoline-3-carboxylic acid (2.75 g).

reactant | methyl 4-oxo-10-cyclohexanecarboxamido-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 4.7 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(=O)C2CCCCC2)C(=O)OC | C20H20N4O4
reactant | lithium iodide | 11.75 g | [I-].[Li+]
solvent | pyridine | 47 ml | N1=CC=CC=C1 | C5H5N
product | 4-oxo-10-cyclohexanecarboxamido-4H-pyrimido[1,2-C]quinazoline-3-carboxylic acid | 2.75 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(=O)C2CCCCC2)C(=O)O | C19H18N4O4
